US06156747
A mixture of 2-aminobenzyl alcohol (0.1218 mol), 3-thiophenecarboxaldehyde (0.1218 mol) and molecular sieves (3 Å) in 2-propanol (150 ml) was stirred overnight at room temperature. The crude reaction mixture was filtered, the residue was treated with CH2Cl2, and the mixture was filtered again. The solvent was evaporated, yielding 21.53 g (81%) of (±)-1,4-dihydro-2-(3-thienyl)-2H-3,1-benzoxazine (interm. 3).

reactant | 2-aminobenzyl alcohol | 0.1218 mol | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | 3-thiophenecarboxaldehyde | 0.1218 mol | S1C=C(C=C1)C=O | C5H4OS
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
product | (±)-1,4-dihydro-2-(3-thienyl)-2H-3,1-benzoxazine | 21.53 g, 81% | S1C=C(C=C1)C1NC2=C(CO1)C=CC=C2 | C12H11NOS
